US06051712
A solution of 2.76 g (7.09 mmol) of (3RS,4SR)-[amino-(1-tert-butoxycarbonyl-3-hydroxy-piperidine-4-yl)-methylene-methyl-sulphonium iodide in 15 ml of methanol was treated with 0.41g (3.55 mmol) of ammonium carbonate and stirred at room temperature for 18 hours. For the working-up, the reaction mixture was evaporated under reduced pressure. 2.5 g (95% of theory) of tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate iodide were obtained as a colourless foam. A solution of 715 mg (1.92 mmol) of tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate iodide in 20 ml of methanol was stirred at room temperature for 1 hours with 321 mg (1.92 mmol) of silver acetate. The precipitated silver iodide was filtered off and washed with 20 ml of methanol. The light yellow filtrate obtained was evaporated under reduced pressure. There were obtained 538 mg (92% of theory) of tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate acetate as a colourless foam.

reactant | amino-(1-tert-butoxycarbonyl-3-hydroxy-piperidine-4-yl)-methylene-methyl-sulphonium iodide | [I-].N[S+](C)(=C)C1C(CN(CC1)C(=O)OC(C)(C)C)O
reactant | ammonium carbonate | 3.55 mmol, 0.41g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
product | tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate iodide | 2.5 g, 95% | [I-].C(N)(=N)C1C(CN(CC1)C(=O)OC(C)(C)C)O | InChI=1S/C11H21N3O3.HI/c1-11(2,3)17-10(16)14-5-4-7(9(12)13)8(15)6-14;/h7-8,15H,4-6H2,1-3H3,(H3,12,13);1H/p-1
